US08431607B2
1-[4-(4-Chloro-phenoxy)-phenyl]-3-methyl-5-(S)-phenyl-imidazolidine-2,4-dione
To a solution of 1-[4-(4-chloro-phenoxy)-phenyl]-5-(S)-phenyl-imidazolidine-2,4-dione (10.0 mg, 0.026 mmol) in anhydrous DMF (0.5 mL) are added K2CO3 (7.3 mg, 0.052 mmol) and MeI (4.93 μL, 0.078 mmol). The reaction mixture is stirred at room temperature overnight before removal of the solvent. The residue is purified by preparative LC/MC to provide the title compound; 1H NMR (CDCl3, 400 MHz) δ 7.42-7.31 (m, 7H), 7.26 (d, 2H), 6.90 (m, 4H), 5.42 (s, 1H), 3.16 (s, 3H); HPLC-MS calculated for C22H17ClN2O3 (M+H+) 393.1, found 393.1.

reactant | 1-[4-(4-chloro-phenoxy)-phenyl]-5-(S)-phenyl-imidazolidine-2,4-dione | 0.026 mmol, 10.0 mg | ClC1=CC=C(OC2=CC=C(C=C2)N2C(NC([C@@H]2C2=CC=CC=C2)=O)=O)C=C1 | C21H15ClN2O3
reactant | K2CO3 | 0.052 mmol, 7.3 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 0.078 mmol, 4.93 μL | CI | CH3I
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 1-[4-(4-Chloro-phenoxy)-phenyl]-3-methyl-5-(S)-phenyl-imidazolidine-2,4-dione | ClC1=CC=C(OC2=CC=C(C=C2)N2C(N(C([C@@H]2C2=CC=CC=C2)=O)C)=O)C=C1 | C22H17ClN2O3
